US06211242B1
A solution of 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-(3-hydroxypropoxy)phenyl]benzamide (300 mg) in dichloromethane (15 ml) was treated with pyridine (95.8 mg) and p-nitrophenyl chloroformate (183 mg). After 4.5 hours, 1-methylpiperazine (303 mg) was added to the reaction mixture and stirred for a further 1 hour at ambient temperature. After concentration, the residue was dissolved in ethyl acetate and washed with saturated sodium hydrogen carbonate solution and brine, dried over sodium sulfate, concentrated, and purified by silica gel column chromatography (SiO2; 30 g, 3% methanol in dichloromethane) to give 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-[3-(4-methylpiperazin-1-carbonyloxy)propoxy]phenyl]benzamide (200 mg) as white amorphous.

reactant | 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-(3-hydroxypropoxy)phenyl]benzamide | 300 mg | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)OCCCO)C)C=C1 | C31H30N2O4
reactant | pyridine | 95.8 mg | N1=CC=CC=C1 | C5H5N
reactant | p-nitrophenyl chloroformate | 183 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | 1-methylpiperazine | 303 mg | CN1CCNCC1 | C5H12N2
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-[3-(4-methylpiperazin-1-carbonyloxy)propoxy]phenyl]benzamide | 200 mg | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)OCCCOC(=O)N2CCN(CC2)C)C)C=C1 | C37H40N4O5
